US06787536B2
2-(R)-{4-[5-(4-Chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyric acid
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid, from 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one (0.275 g), to give the title compound as a white solid (0.184 g, 90%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methylbutyric acid | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C20H25FN4O4S
reactant | 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyryl)oxazolidin-2-one | 0.275 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCC(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)Cl)=O | C31H35ClN4O5S
product | 2-(R)-{4-[5-(4-Chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyric acid | 0.184 g, 90% | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C21H26ClN3O4S
